US06756378B2
To a stirred solution of benzyl-(S)-glycidyl ether (5.0 g, 30.5 mmol) in THF (100 ml) was added allylmagnesium chloride (1.0 M in Et2O, 30.5 ml, 30.5 mmol) at −78° C., and the resulting mixture was gradually warmed up to rt with stirring. The mixture was poured into water and concentrated in vacuo, then extracted with CHCl3. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (5:1) as eluent to give 1-benzyloxy-2-(R)-hydroxy-5-hexene (2.18 g, 35%) as a colorless oil: 1H-NMR (CDCl3) δ1.52-1.60 (m, 2 H), 2.11-2.25 (m, 2 H), 2.34 (d, J=3.2 Hz, 1 H), 3.35 (dd, J=9.6, 8.0 Hz, 1 H), 3.52 (dd, J=9.6, 3.2 Hz, 1 H), 3.84-3.86 (m, 1 H), 4.57 (s, 2 H), 4.96-5.07 (series of m, 2 H), 5.78-5.88 (m, 1 H), 7.29-7.38 (m, 5 H); MS (ESI) m/z, 224 (M++NH4+).

reactant | benzyl-(S)-glycidyl ether | 30.5 mmol, 5.0 g | C(C1=CC=CC=C1)OC[C@@H]1CO1 | C10H12O2
reactant | allylmagnesium chloride | 30.5 mmol, 1.0 M, 30.5 ml | C(C=C)[Mg]Cl
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-benzyloxy-2-(R)-hydroxy-5-hexene | 2.18 g, 35% | C(C1=CC=CC=C1)OC[C@@H](CCC=C)O | C13H18O2
